* D:\Google Drive\Projects\Falmo\electronics\decoder.asc
R20 N008 N007 5k
C10 0 N008 200n
R21 N012 N011 5k
C1 N012 0 200n
R5 N006 N007 10k
R13 N006 0 10k
R14 N011 N010 10k
R18 N010 0 10k
C5 N009 0 400n
L5 N009 0 31.66m
R26 N009 Vinr 2k
C4 N013 0 800n
L2 N013 0 14.07m
R16 N013 Vinr 2k
R7 Vinr P001 300
R17 Vt N004 20k
C11 0 Vt 10µ IC=-150m
R22 N002 N004 10k
R25 N002 0 10k
V1 V+ 0 3.6 Rser=2
C6 V+ 0 8000µ Rser=2
C7 V+ 0 100n
R6 N016 N015 5k
C8 N016 0 200n
R8 N015 N014 10k
R9 N014 0 10k
C9 N017 0 800n
L1 N017 0 7.916m
R10 N017 Vinr 2k
C12 N005 0 20µ
L3 N005 0 31.66m
R11 N005 Vinr 2k
B1 P001 0 V=0.4*sin(2*pi*time*1000*(time/2))*buf(-sin(time*400)+1.5)+0.0*sin(2*pi*(200*time+0.5))
R2 N001 N003 10k
R3 N001 0 10k
R12 Vw N003 10k
C3 0 Vw 800n
XU1 N017 N014 V+ 0 N015 LT1078
XU2 N016 Vt V+ 0 Vin2 LT1078
XU3 N012 Vt V+ 0 Vin1 LT1078
XU4 N013 N010 V+ 0 N011 LT1078
XU5 N009 N006 V+ 0 N007 LT1078
XU6 N008 Vt V+ 0 Vsh LT1078
XU7 N005 N002 V+ 0 N004 LT1078
XU8 Vinr N001 V+ 0 N003 LT1078
.lib LM324.ti.lib
.tran 0 2.5 0 0.0001
* smoothing f.
* smoothing f.
* comparator
* comparator
* rect. amp.
* rect. amp.
.lib Ltc.lib
* smoothing f.
* rect. amp.
* more capacitors beacause of ESR and ESL
* Motor noise: https://www.pololu.com/docs/0J15/9
* bandwidth=1/(RC)/(2*pi) [Hz]
* center frequency f_c= 1/sqrt(LC)/(2*pi) [Hz]
* L = 1/(4*pi^2*f_c^2*C)
* smoothing f.
* comparator
* rect. amp.
* 1959.06 Hz
* If the 2 op-amp resistors are equal, A=1+R/R=2
* rect. amp.
* smoothing f.
* SLEW RATE TOO LOW?\nhttps://www.electronics-notes.com/articles/analogue_circuits/operational-amplifier-op-amp/slew-rate.php
.lib LTC.lib
.backanno
.end
